US06608078B2
A mixture of 1-benzyl-4-hydroxy-3-isopropylpiperidine (2.9 g, 12.44 mmole) and 20% palladium hydroxide (0.25 g) in methanol (25 ml) was stirred in hydrogen atmosphere (1 atm.) for 24 hr at 30° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 4-hydroxy-3-isopropylpiperidine as oil. Yield 1.6 g (80%), C8H17NO, m/z 144 (M+1) PMR (CDCl3): 0.9 (6H, m, 2×CH3), 1.1-1.64 (2H, m, CH & H3), 1.66-2.42 (3H, m, H5, & OH, D2O exchangeable), 2.62 (1H, m, H2), 3.02 (2H, m, H6), 3.45 (1H, bs, NH, D2O exchangeable), 3.54 (1H, m, H6), 4.18 (1H, m, H4).

reactant | 1-benzyl-4-hydroxy-3-isopropylpiperidine | 12.44 mmole, 2.9 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)C(C)C | C15H23NO
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.25 g | [OH-].[Pd+2].[OH-]
product | 4-hydroxy-3-isopropylpiperidine | OC1C(CNCC1)C(C)C | C8H17NO
